US07863269B2
17a) 3-Ethoxy-2-fluoro-6-methylpyridine
2-Fluoro-3-hydroxy-6-picoline (500 mg) was initially introduced in absolute DMF (20 ml) and potassium carbonate (1 g) was added. After this, ethyl iodide (0.6 ml) was added dropwise with stirring and the mixture was stirred for 1 h. Subsequently, water and ethyl acetate were added to the reaction mixture. After separating off the organic phase, the mixture was additionally extracted three times with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated. The crude product obtained (477 mg) was reacted directly in the next stage.

reactant | 2-Fluoro-3-hydroxy-6-picoline | 500 mg | FC1=NC(=CC=C1O)C | C6H6FNO
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.6 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Ethoxy-2-fluoro-6-methylpyridine | C(C)OC=1C(=NC(=CC1)C)F | C8H10FNO
